US07495103B2
Pd(OH)2 (330.0 mg) was added to a stirring solution of tert-butyl 3,4-dihydro-7-nitroisoquinoline-2(1H)-carboxylate (3.3 g, 12.0 mmol) in MeOH (56 mL) under N2 atmosphere. The reaction mixture was stirred under H2 (1 atm) at room temperature for 72 h. The solid was removed by filtration through Celite. The filtrate was concentrated and purified by column chromatography (15-35% EtOAc-Hexanes) to provide tert-butyl 7-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate (DC-6) as a pink oil (2.0 g, 69%). 1H NMR (400 MHz, DMSO-d6) δ 6.79 (d, J=8.1 Hz, 1H), 6.40 (dd, J=8.1, 2.3 Hz, 1H), 6.31 (s, 1H), 4.88 (s, 2H), 4.33 (s, 2H), 3.48 (t, J=5.9 Hz, 2H), 2.58 (t, J=5.9 Hz, 2H), 1.42 (s, 9H); HPLC ret. time 2.13 min, 10-99% CH3CN, 5 min run; ESI-MS 249.0 m/z (MH+).

reactant | tert-butyl 3,4-dihydro-7-nitroisoquinoline-2(1H)-carboxylate | 12.0 mmol, 3.3 g | [N+](=O)([O-])C1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H18N2O4
solvent | MeOH | 56 mL | CO | CH4O
catalyst | Pd(OH)2 | 330.0 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 7-amino-3,4-dihydroisoquinoline-2(1H)-carboxylate | 2.0 g, 69% | NC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H20N2O2
